US08470848B2
127d) [1-(4-Cyano-3-ethoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To a stirred, ice-cooled (0° C.) suspension of sodium hydride (26.3 mg of a 60% dispersion in mineral oil, 0.686 mmol) in dry THF (10 ml) under an inert atmosphere of Argon is added dropwise (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester ((0.1 g, 0.49 mmol) in THF/DMF (4 ml of a 3:1 mixture). The reaction mixture is stirred at 0° C. for 1 hour and then treated with 4-cyano-3-ethoxy-benzenesulfonyl chloride (168 mg, 0.686 mmol) in dry THF (1 ml). Stirring continued at 0° C. for 10 minutes and at room temperature for 10 minutes and then the reaction mixture is poured onto water (50 ml). The mixture is extracted with ethyl acetate (2×50 ml) and the organic portions are combined, washed brine (50 ml), dried (MgSO4) and concentrated in vacuo. The resulting crude is purified by chromatography on silica eluting with iso-hexane/ethyl acetate (0%-20% ethyl acetate) to yield the titled product. (MH+ 414).

reactant | sodium hydride | [H-].[Na+]
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | 4-cyano-3-ethoxy-benzenesulfonyl chloride | 0.686 mmol, 168 mg | C(#N)C1=C(C=C(C=C1)S(=O)(=O)Cl)OCC | C9H8ClNO3S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF DMF | C1CCOC1.CN(C)C=O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [1-(4-Cyano-3-ethoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)C#N)OCC)C)=O | C20H19N3O5S
